US06235731B1
1) Synthesis of (E)-4-[2-(piperidin-4-ylmethanesulfonyl)vinyl]-5-thia-1,8b-diazaacenaphthylene dihydrochloride
To the above crude (E)-4-[2-[1-(tert-butoxycarbon-yl)piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene was added 3 ml of concentrated hydrochloric acid, and the mixture was stirred at room temperature for 10 minutes. To this reaction mixture was added ethanol, and the resulting precipitate was recovered by filtration and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | (E)-4-[2-[1-(tert-butoxycarbon-yl)piperidin-4-ylmethanesulfonyl]vinyl]-5-thia-1,8b-diazaacenaphthylene | C(C)(C)(C)OC(=O)N1CCC(CC1)CS(=O)(=O)/C=C/C1=CC2=CN=C3C=CC=C(S1)N32 | C22H27N3O4S2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (E)-4-[2-(piperidin-4-ylmethanesulfonyl)vinyl]-5-thia-1,8b-diazaacenaphthylene dihydrochloride | Cl.Cl.N1CCC(CC1)CS(=O)(=O)/C=C/C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C17H19N3O2S2.2ClH/c21-24(22,12-13-4-7-18-8-5-13)9-6-15-10-14-11-19-16-2-1-3-17(23-15)20(14)16;;/h1-3,6,9-11,13,18H,4-5,7-8,12H2;2*1H/b9-6+;;
